US09034864B2
Synthesis of (2S)-3-[(3S,4S)-3-[(1R)-1-hydroxyethyl]-4-{4-methoxy-3-[(1-pyridin-2-ylazetidin-3-yl)oxy]phenyl}-3-methylpyrrolidin-1-yl]-3-oxopropane-1,2-diol
To a solution of (1R)-1-[(3S,4S)-1-{[(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]carbonyl}-4-(4-methoxy-3-{[1-pyridin-2-ylazetidin-3-yl]oxy}phenyl)-3-methylpyrrolidin-3-yl]ethanol (22.1 mg) in tetrahydrofuran (2 mL) is added aqueous 1.0 M HCl (1 mL). Stir overnight at room temperature. Add aqueous 1.0 M HCl (1 mL) and stir for additional 8 hours. Neutralize with aqueous 1.0 M NaOH, extract with ethyl acetate, dry and evaporate to provide the title compound (18.2 mg). MS(ES+)=472 (M+1).

reactant | (1R)-1-[(3S,4S)-1-{[(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]carbonyl}-4-(4-methoxy-3-{[1-pyridin-2-ylazetidin-3-yl]oxy}phenyl)-3-methylpyrrolidin-3-yl]ethanol | 22.1 mg | CC1(OC[C@H](O1)C(=O)N1C[C@@]([C@@H](C1)C1=CC(=C(C=C1)OC)OC1CN(C1)C1=NC=CC=C1)(C)[C@@H](C)O)C | C28H37N3O6
reactant | HCl | 1.0 M, 1 mL | Cl | ClH
reactant | HCl | 1.0 M, 1 mL | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (2S)-3-[(3S,4S)-3-[(1R)-1-hydroxyethyl]-4-{4-methoxy-3-[(1-pyridin-2-ylazetidin-3-yl)oxy]phenyl}-3-methylpyrrolidin-1-yl]-3-oxopropane-1,2-diol | 18.2 mg | O[C@H](C)[C@@]1(CN(C[C@H]1C1=CC(=C(C=C1)OC)OC1CN(C1)C1=NC=CC=C1)C([C@H](CO)O)=O)C | C25H33N3O6
